US05716756
5.2 g (25 mmol) of 1-cyano-2,2,2-trifluoro-1-phenyl-ethanol were dissolved in 50 ml of DMF, and 0.9 g (30 mmol) of sodium hydride (80% strength dispersion in mineral oil) was added. 5.5 g (29 mmol) of toluene-4-sulfonyl chloride were added in portions to the virtually clear solution after about 1 hour. The mixture was stirred for 8 hours, allowed to stand overnight and then poured into water. The oily liquid which separated out solidified on cooling. The solid was filtered off with suction and dried. 6.3 g of 1-cyano-1-phenyl-1-(toluene-4-sulfonyloxy)-2,2,2-trifluoroethane were obtained (colorless crystals, m.p.: 70° C. [from ligroin]).

reactant | 1-cyano-2,2,2-trifluoro-1-phenyl-ethanol | 25 mmol, 5.2 g | C(#N)C(C(F)(F)F)(O)C1=CC=CC=C1 | C9H6F3NO
reactant | sodium hydride | 30 mmol, 0.9 g | [H-].[Na+]
reactant | toluene-4-sulfonyl chloride | 29 mmol, 5.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1-cyano-1-phenyl-1-(toluene-4-sulfonyloxy)-2,2,2-trifluoroethane | 6.3 g | C(#N)C(C(F)(F)F)(OS(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1 | C16H12F3NO3S
